US07608622B2
1-Benzyl-6-(3-hydroxymethyl-4-methoxyphenyl)-1,3-dihydro-imidazo[4,5-b]pyrazin-2-one (Compound 24)
To a solution of 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzaldehyde (27.2 mg, 0.076 mmol) in MeOH (1 mL) was added NaBH4 (2.86 mg, 0.076 mmol). The mixture was stirred at room temperature for one hour, and then concentrated under reduced pressure. The residue thus obtained was purified by column chromatography [silica gel; MeOH/DCM (1:19)] to give the product as an off-white powder (22 mg, 80%). 1H NMR (400 MHz, DMSO): δ 8.35 (s, 1H), 8.01 (s, 1H), 7.84 (dd, J=2.0, 8.8 Hz, 1H), 7.40-7.25 (m, 5H), 7.02 (d, J=8.4 Hz, 1H), 5.04 (s, 2H), 4.52 (d, J=5.2 Hz, 2H), 3.81 (s, 3H). MS: 363.0 (M+H).

reactant | 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzaldehyde | 0.076 mmol, 27.2 mg | C(C1=CC=CC=C1)N1C(NC2=NC=C(N=C21)C=2C=CC(=C(C=O)C2)OC)=O | C20H16N4O3
reactant | NaBH4 | 0.076 mmol, 2.86 mg | [BH4-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 1-Benzyl-6-(3-hydroxymethyl-4-methoxyphenyl)-1,3-dihydro-imidazo[4,5-b]pyrazin-2-one | 22 mg, 80% | C(C1=CC=CC=C1)N1C(NC=2C1=NC(=CN2)C2=CC(=C(C=C2)OC)CO)=O | C20H18N4O3
